US08633189B2
A solution of 3,4-dihydro-2H-1,4-benzothiazine-2-carboxylic acid (80 mg, 0.41 mmol) and 5-amino-2-tert-butyl-phenol (67 mg, 0.41 mmol) in dichloromethane (3 mL) was treated with propane phosphonic acid anhydride (610 μl, of 50% w/w in ethyl acetate, 1.02 mmol) and pyridine (99 μL, 1.2 mmol) and stirred for 30 min at room temperature. The reaction was washed with water, dried over Na2SO4, and concentrated in vacuo. HPLC purification (20-99% CH3CN/0.05% TFA) provided N-(4-tert-butyl-3-hydroxy-phenyl)-3,4-dihydro-2H-1,4-benzothiazine-2-carboxamide (51 mg, 36% yield). LC/MS m/z 343.2 [M+H]+. 1H NMR (400.0 MHz, DMSO-d6) δ 10.07 (s, 1H), 9.38 (s, 1H), 7.20 (d, J=2.0 Hz, 1H), 7.03 (d, J=8.4 Hz, 1H), 6.93 (dd, J=1.1, 7.7 Hz, 1H), 6.88-6.83 (m, 2H), 6.58 (d, J=7.5 Hz, 1H), 6.51-6.47 (t, J=7.5, 1H), 3.92 (dd, J=3.0, 8.0 Hz, 1H), 3.72 (dd, J=3.0, 12.3 Hz, 1H), 3.53 (dd, J=8.1, 12.3 Hz, 1H), 1.31 (s, 9H).

reactant | 3,4-dihydro-2H-1,4-benzothiazine-2-carboxylic acid | 0.41 mmol, 80 mg | S1C(CNC2=C1C=CC=C2)C(=O)O | C9H9NO2S
reactant | 5-amino-2-tert-butyl-phenol | 0.41 mmol, 67 mg | NC=1C=CC(=C(C1)O)C(C)(C)C | C10H15NO
reactant | pyridine | 1.2 mmol, 99 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(4-tert-butyl-3-hydroxy-phenyl)-3,4-dihydro-2H-1,4-benzothiazine-2-carboxamide | 51 mg, 36% yield | C(C)(C)(C)C1=C(C=C(C=C1)NC(=O)C1SC2=C(NC1)C=CC=C2)O | C19H22N2O2S
